US07566781B2
Methyl 5-(pyridin-2-ylmethoxy)-1H-indole-2-carboxylate
2-Chloromethylpyridine hydrochloride (515 mg) and methyl 5-hydroxy-1H-indole-2-carboxylate (600 mg) were processed in the same manner as in Production Example 1-1 to obtain the entitled compound (160 mg).

reactant | 2-Chloromethylpyridine hydrochloride | 515 mg | Cl.ClCC1=NC=CC=C1
reactant | methyl 5-hydroxy-1H-indole-2-carboxylate | 600 mg | OC=1C=C2C=C(NC2=CC1)C(=O)OC | C10H9NO3
product | Methyl 5-(pyridin-2-ylmethoxy)-1H-indole-2-carboxylate | 160 mg | N1=C(C=CC=C1)COC=1C=C2C=C(NC2=CC1)C(=O)OC | C16H14N2O3
